US08492582B2
Under ice-cooling, acetic anhydride (0.025 mL) was added to a solution mixture of methyl 2-(2-(benzyloxy)-5-(2-(piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate (0.12 g) in methylene chloride (2.4 mL) and pyridine (0.027 mL), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-95% chloroform/methanol] to obtain methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate as a colorless oily substance.

reactant | acetic anhydride | 0.025 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 2-(2-(benzyloxy)-5-(2-(piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.12 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCNCC1 | C34H35N3O5
solvent | methylene chloride | 2.4 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.027 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate | C(C)(=O)N1CCN(CC1)CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C36H37N3O6
